US08604069B2
(A-58-1) Methyl 5-(2-chloro-4-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valerate
6-Methyl 3-[4-Cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl]adipate (100 mg), 2-chloro-4-methylphenylamine (0.0377 mL) and DMF (1 mL) were mixed. To the mixture were added triethylamine (0.0354 mL), HOBt.H2O (47 mg) and WSC.HCl (58.8 mg) at ice temperature. The mixture was stirred at RT overnight. To the reaction mixture was added saturated aqueous sodium bicarbonate at ice temperature. The mixture was extracted with ethyl acetate. The organic layer was washed with water, 1 N hydrochloric acid and brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: ethyl acetate/hexane=1/8) to give the title compound (63.3 mg).

reactant | 6-Methyl 3-[4-Cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl]adipate | 100 mg | C1(CC1)C=1C(=NOC1C1CC(C1)CC(C)(C)C)C(CC(=O)[O-])CCC(=O)OC
reactant | 2-chloro-4-methylphenylamine | 0.0377 mL | ClC1=C(C=CC(=C1)C)N | C7H8ClN
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 58.8 mg | CCN=C=NCCCN(C)C.Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | H2O | 47 mg | O | H2O
solvent | triethylamine | 0.0354 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Methyl 5-(2-chloro-4-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valerate | 63.3 mg | ClC1=C(C=CC(=C1)C)NC(=O)CC(CCC(=O)OC)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)(C)C | C29H39ClN2O4
